US04920129
To a solution of 2-amino-3-(2-methyl-6-methoxycarbonylaminobenzylideneamino)pyridine (229 mg) in methanol (4.6 ml) and chloroform (4.6 ml) was added sodium borohydride (200 mg) and the mixture was stirred for 3.5 hours at room temperature. After water was added, organic layer was separated and dried over magnesium chloride. The solvent was evaporated under reduced pressure. The residue was triturated with diethyl ether to give 2-amino-3-(2-methyl-6-methoxycarbonylaminobenzylamino)pyridine (217 mg).

reactant | 2-amino-3-(2-methyl-6-methoxycarbonylaminobenzylideneamino)pyridine | 229 mg | NC1=NC=CC=C1N=CC1=C(C=CC=C1NC(=O)OC)C | C15H16N4O2
reactant | sodium borohydride | 200 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 4.6 ml | CO | CH4O
solvent | chloroform | 4.6 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-3-(2-methyl-6-methoxycarbonylaminobenzylamino)pyridine | 217 mg | NC1=NC=CC=C1NCC1=C(C=CC=C1NC(=O)OC)C | C15H18N4O2
